US07273882B2
Step G3. A mixture of 1-bromo-3-(bromomethyl)-5-chlorobenzene (6 g, ˜21 mmol) and potassium phthalimide (3.15 g, 17 mmol) in DMF (50 ml) was heated at 120° C. for 2 hours. After cooled down, a white solid precipitated. The solid was filtered and washed with ethanol, then dried in vacuum. 2-(3-Bromo-5-chlorobenzyl)isoindoline-1,3-dione (5.1 g, 85%) was obtained as white solid. 1H NMR (DMSO-d6): δδ3.72 (s, 2H), 7.43 (s, 1H), 7.51 (s, 1H), 7.52 (s, 1H), 7.84, 7.86 (d, 2H), 8.05, 8.07 (d, 2H).

reactant | 1-bromo-3-(bromomethyl)-5-chlorobenzene | ˜21 mmol, 6 g | BrC1=CC(=CC(=C1)Cl)CBr | C7H5Br2Cl
reactant | potassium phthalimide | 17 mmol, 3.15 g | C1(C=2C(C(N1)=O)=CC=CC2)=O.[K]
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 2-(3-Bromo-5-chlorobenzyl)isoindoline-1,3-dione | 5.1 g, 85% | BrC=1C=C(CN2C(C3=CC=CC=C3C2=O)=O)C=C(C1)Cl | C15H9BrClNO2
